US07977358B2
4-Chloro-N-{3-[3,5-dimethyl-4-(4-pyrrolidin-1-yl-piperidine-1-carbonyl)-pyrazol-1-yl]-phenyl}-benzamide
In analogy to the procedure described in Example 38E], [1-(3-amino-phenyl)-3,5-dimethyl-1H-pyrazol-4-yl]-(4-pyrrolidin-1-yl-piperidin-1-yl)-methanone hydrochloride (Example 38D]) and 4-chlorobenzoyl chloride gave the title compound in 62% yield as yellow oil. MS: 506.3 (MH+, 1 Cl).

reactant | [1-(3-amino-phenyl)-3,5-dimethyl-1H-pyrazol-4-yl]-(4-pyrrolidin-1-yl-piperidin-1-yl)-methanone hydrochloride | Cl.NC=1C=C(C=CC1)N1N=C(C(=C1C)C(=O)N1CCC(CC1)N1CCCC1)C
reactant | 4-chlorobenzoyl chloride | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
product | 4-Chloro-N-{3-[3,5-dimethyl-4-(4-pyrrolidin-1-yl-piperidine-1-carbonyl)-pyrazol-1-yl]-phenyl}-benzamide | 62% yield | ClC1=CC=C(C(=O)NC2=CC(=CC=C2)N2N=C(C(=C2C)C(=O)N2CCC(CC2)N2CCCC2)C)C=C1 | C28H32ClN5O2
